### PR TITLE
[Merged by Bors] - feat: simplify the proof that the composition of `C^n` functions is `C^n`

### PR DESCRIPTION
**Pull request by sgouezel**
Now that we have Faa di Bruno, we can give a better direct proof that avoids universe mess (and is also more amenable to generalization to analytic functions).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean [hunk 1]
```diff
@@ -503,105 +504,53 @@ theorem ContDiff.prod {f : E → F} {g : E → G} (hf : ContDiff 𝕜 n f) (hg :
...
+/-- The composition of `C^n` functions at points in domains is `C^n`. -/
+theorem ContDiffWithinAt.comp {s : Set E} {t : Set F} {g : F → G} {f : E → F} (x : E)
+    (hg : ContDiffWithinAt 𝕜 n g t (f x)) (hf : ContDiffWithinAt 𝕜 n f s x) (st : MapsTo f s t) :
+    ContDiffWithinAt 𝕜 n (g ∘ f) s x := by
+  intro m hm
+  rcases hf m hm with ⟨u, hu, p, hp⟩
+  rcases hg m hm with ⟨v, hv, q, hq⟩
+  let w := insert x s ∩ (u ∩ f ⁻¹' v)
+  have wv : w ⊆ f ⁻¹' v := fun y hy => hy.2.2
+  have wu : w ⊆ u := fun y hy => hy.2.1
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/ContDiff/Basic.lean:541]:
```suggestion
  have wv : w ⊆ f ⁻¹' v := inter_subset_right.trans inter_subset_right
  have wu : w ⊆ u := inter_subset_right.trans inter_subset_left
```

**Review by Ruben-VandeVelde — APPROVED** [review]

**Comment by RemyDegenne** [comment]
Thanks!
bors r+
